US04551427
(b) Measurement of glucose in the haemolysate. End point determination (manual carrying out of the test)
500 μl. of the haemolysate are mixed with 2 ml. of the following reagent: 35 mmol/liter phosphate buffer (pH 7.7); 2 mmol magnesium sulphate; 0.65 mmol NADP; and 0.65 mmol ATP.

reactant | phosphate | 35 mmol/liter, pH 7.7 | P(=O)([O-])([O-])[O-]
reactant | magnesium sulphate | 2 mmol | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | NADP | 0.65 mmol | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | ATP | 0.65 mmol | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
